US07273878B2
To 5 ml of 2-chlorotoluene was dissolved 0.20 g (0.64 mmol) of 6,6-difluoro-5-methyl-5-hexenyl benzo[b]thiophene-2-carboxylate, followed by the addition of 0.26 g (0.64 mmol) of Lawesson's reagent and stirring by heating under refluxing for 4 hours. To the reaction liquid were added 2 ml of isopropyl ether and 10 ml of hexane and precipitated solid was filtered off. The filtrate was concentrated under reduced pressure and the residue was purified with silica gel column chromatography (diisopropyl ether:hexane=1:30) to obtain 0.17 g (yield: 81%) of O-(6,6-difluoro-5-methyl-5-hexenyl) benzo[b]thiophene-2-thiocarboxylate.

reactant | 2-chlorotoluene | 5 ml | ClC1=C(C=CC=C1)C | C7H7Cl
reactant | 6,6-difluoro-5-methyl-5-hexenyl benzo[b]thiophene-2-carboxylate | 0.64 mmol, 0.20 g | S1C2=C(C=C1C(=O)OCCCCC(=C(F)F)C)C=CC=C2 | C16H16F2O2S
reactant | Lawesson's reagent | 0.64 mmol, 0.26 g | COC=1C=CC(=CC1)P2(=S)SP(=S)(S2)C=3C=CC(=CC3)OC | C14H14O2P2S4
reactant | isopropyl ether | 2 ml | C(C)(C)OC(C)C | C6H14O
solvent | hexane | 10 ml | CCCCCC | C6H14
product | O-(6,6-difluoro-5-methyl-5-hexenyl) benzo[b]thiophene-2-thiocarboxylate | 0.17 g, yield: 81% | S1C2=C(C=C1C(OCCCCC(=C(F)F)C)=S)C=CC=C2 | C16H16F2OS2
